US07622486B2
Synthesis of 4-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ylamino]-N-methyl-benzenesulfonamide (B60)
To a solution of 4-(6′-chloro-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ylamino)-N-methyl-benzenesulfonamide (70 mg, 0.18 mmol) in 1,4-dioxane (8 mL) was added sodium carbonate (1N, 80 mg, 0.72 mmol), and tetrakis(triphenyl-phosphine)palladium(0) (21 mg, 0.018 mmol), followed by 4-fluorophenyl boronic acid (49 mg, 0.36 mmol). This reaction was refluxed for 8 hours, after which time water (100 mL) added to the reaction mixture, and the product was extracted with ethyl acetate (100 mL×3). The organic layer was dried over sodium sulphate, filtered, and the filtrate was and concentrated under vacuum. The resulting product was purified through column chromatography using 230-400 mesh silica gel (5% methanol in dichloromethane) to afford the desired compound as A yellow solid (48 mg, Yield 60%). Purity: 98.2%.

reactant | 4-(6′-chloro-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ylamino)-N-methyl-benzenesulfonamide | 0.18 mmol, 70 mg | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)NC)N1CCCCC1 | C17H21ClN4O2S
reactant | sodium carbonate | 0.72 mmol, 1N, 80 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenyl boronic acid | 0.36 mmol, 49 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | water | 100 mL | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ylamino]-N-methyl-benzenesulfonamide | 48 mg, Yield 60% | FC1=CC=C(C=C1)C1=CC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)NC)N1CCCCC1 | C23H25FN4O2S
